### PR TITLE
Port to use typeclass-aware filter in stdpp

### PR DESCRIPTION
**Pull request by palmskog**
The goal is to go from `List.filter f l`, where `f : A -> bool`, to `filter P l` via stdpp, where `P : A -> Prop` and is decidable.

The typeclass-oblivious `List.In` predicate is generally left untouched, but should be ported to `elem_of` from stdpp in a later PR.

### CODE REVIEW

File: VLSM/ListValidator/EquivocationAwareComposition.v [hunk 1]
```diff
@@ -297,6 +297,7 @@ Context
      Note that some of these may actually be equivocating if we were to
      take into account observations originating outside of <<ws>> *)
 
+  (* FIXME: we need to use stdpp filter here *)
   Definition wH (s : vstate X) : set index :=
     List.filter (fun i : index => negb (
```
Comment (palmskog) [inline VLSM/ListValidator/EquivocationAwareComposition.v:302]: @mcalancea here is the place I'm trying to use stdpp's `filter` (no `List.`) and writing the property by itself as an argument.

File: CBC/Binary.v [hunk 2]
```diff
@@ -190,34 +178,41 @@ Section States.
...
+   Exists (equivocating_messages msg).
+
+ Instance equivocating_message_state_dec (msg : message) (s : state) :
+   Decision (equivocating_message_state msg s) := _.
 
  Lemma equivocating_message_state_incl : forall sigma sigma',
-     incl sigma sigma' ->
-     forall msg,
-       equivocating_message_state msg sigma = true -> equivocating_message_state msg sigma' = true.
+ incl sigma sigma' ->
```
Comment (traiansf) [inline CBC/Binary.v:198]: Shouldn't this be indented a bit?

File: Lib/ListExtras.v [hunk 3]
```diff
@@ -140,99 +140,117 @@ Proof.
...
+      * subst. apply filter_in; try assumption. apply H0. left. reflexivity.
+      * apply IHs1; try assumption. intro y; intro. apply H0. right. assumption.
+    + apply IHs1; try assumption. intro y; intro. apply H0. right. assumption.
 Qed.
 
-Lemma filter_incl_fn {A} : forall (f : A -> bool) (g : A -> bool),
-  (forall a, f a = true -> g a = true) ->
-  forall s, incl (List.filter f s) (List.filter g s).
+Lemma filter_incl_fn {A} P Q
+ `{∀ (x:A), Decision (P x)} `{∀ (x:A), Decision (Q x)} :
```
Comment (traiansf) [inline Lib/ListExtras.v:169]: I think the usual indentation is 2 spaces

File: Lib/ListSetExtras.v [hunk 4]
```diff
@@ -409,42 +423,43 @@ Proof.
   - exfalso. inversion H1.
 Qed.
 
-Lemma filter_set_add `{StrictlyComparable X} :
-  forall (l : list X) (f : X -> bool) (x : X),
-    f x = false ->
-    List.filter f l = List.filter f (set_add compare_eq_dec x l).
+Lemma filter_set_add `{StrictlyComparable X} 
+ P `{∀ (x:X), Decision (P x)} :
```
Comment (traiansf) [inline Lib/ListSetExtras.v:427]: indentation

**Review by traiansf — APPROVED** [review]
Looks reasonable to me; I cannot help wondering though why our proofs  became longer after this transition :-)

**Comment by palmskog** [comment]
The proofs became longer because I sometimes have to switch back and forth between `In x l` and `x ∈ l` (also for stdpp NoDup vs Coq stdlib NoDup). It seemed pointless to automate these representation changes right now, because my strong hope is that we can perform a full switch to `x ∈ l` everywhere in the near future.

File: CBC/Binary.v [hunk 5]
```diff
@@ -112,22 +112,16 @@ Section States.
...
 
   Definition later_from (msg : message) (v : V) (sigma : state) : list message :=
-    List.filter (fun msg' => (inb compare_eq_dec (hash msg) (justification msg')) && (compareb (sender msg') v)) sigma.
-
-  Definition is_nil_fn {A:Type} (l:list A) : bool :=
-  match l with
-    | nil => true
-    | _ => false
-  end.
+    filter (fun msg' => ((hash msg) ∈ (justification msg')) /\ (compare (sender msg') v = Eq)) sigma.
```
Comment (bmmoore) [inline CBC/Binary.v:121]: Are all these parentheses considered good style? I think it's practically impossible anyone would be confused about precedence vs. function application if we didn't have inner parentheses in `(hash msg ∈ justification msg')`, and still quite reasonable to assume readers would expect membership to bind tighter than "/\".

File: CBC/Binary.v [hunk 6]
```diff
@@ -190,34 +178,42 @@ Section States.
...
-   destruct H1 as [x [Hin Heq]]. exists x.
-   split; try assumption.
-   apply H0. assumption.
+   intros sigma sigma' Hinc msg Hex.
+   apply Exists_exists in Hex.
+   destruct Hex as [msg' [Hmsg' Hequiv]].
+   apply Exists_exists.
+   exists msg'.
+   split; [|assumption].
+   apply elem_of_list_In in Hmsg'.
```
Comment (bmmoore) [inline CBC/Binary.v:209]: Does this need conversion between elem_of and In only because `incl` is not using some stdpp definition? Seems most of the work here is about converting between elem_of and In. Can you tell us how to redefine `incl` to make this proof at least as short as the old proof?

**Review by bmmoore — COMMENTED** [review]
Like Traian, I'm a bit worried about the proof size. I hope there are some further definitions you could convert that would avoid needing to switch between worlds. Do you have an idea how what those would be or how much more work to use them?

File: CBC/Binary.v (hunk 6 above)
Comment (palmskog) [reply CBC/Binary.v:209]: We use `incl` (which is defined in terms of only `In`) since it is the main predicate used in results about list-based sets. I think we've agreed before to try to completely move away from from list-based sets (`ListSet`) in the near future, which means we would completely purge the `incl` predicate. Hence, I don't think we should try to come up with an ad-hoc "layer" to manually replace `incl` and related definitions - they are all on their way out and stdpp definitions will be slotted in.

**Comment by palmskog** [comment]
@bmmoore I've made updates to address all your concerns except about `incl` and `In` as explained by above comments. Are you fine with merging this PR?

**Comment by bmmoore** [comment]
Changes looks fine.

I see I wasn't clear about all my concerns with the conversion - changing In and incl would address the current conversion costs, but would it add similarly large conversion costs elsewhere, or be a pretty coherent state?

If you are pretty sure addressing `In` and `incl` will get us there, or maybe one more phase after that, then I'm fine with this PR as it is. Otherwise we should plan more about which stdpp definitions to adopt in groups.

**Comment by palmskog** [comment]
I'm fairly certain we can replace `In` and `incl` and purge the "predicate conversion" tactics in at most two additional steps/PRs. Note that this PR also gets rid of many boolean functions and lemmas, which should have a positive impact going forward.
